US04843093
In a 50 ml flask with a cooling column, 1.77 g (10 mmole) of α-chloro-γ-isobutyl-γ-butyrolactone and 12 ml of 2N aqueous potassium carbonate were kept at 80 C. for 40 hours under stirring. The reaction mixture was cooled to room temperature and poured into 10 ml of 12N hydrochloric acid. The reaction product was extracted with ether and the ether extract was dried with anhydrous sodium sulfate. After removal of ether, distillation of the residue under reduced pressure gave α-hydroxy-γ-isobutyl-γ-butyrolactone. (yield 99%).

reactant | α-chloro-γ-isobutyl-γ-butyrolactone | 10 mmole, 1.77 g | ClC1C(=O)OC(C1)CC(C)C | C8H13ClO2
reactant | potassium carbonate | 2N, 12 ml | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 12N, 10 ml | Cl | ClH
product | α-hydroxy-γ-isobutyl-γ-butyrolactone | yield 99% | OC1C(=O)OC(C1)CC(C)C | C8H14O3
